US07078405B2
2-[(6-Chloro-4-pyrimidinyl)amino]-1-butanol
4,6-Dichloropyrimidine (5.0 g) and 2-amino-1-butanol (6.5 mL) were heated under reflux in 1,4-dioxane (26 mL) for 1 hour. The reaction mixture was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:10) to give the title compound (5.6 g) as a pale orange oil.

reactant | 4,6-Dichloropyrimidine | 5.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-amino-1-butanol | 6.5 mL | NC(CO)CC | C4H11NO
solvent | 1,4-dioxane | 26 mL | O1CCOCC1 | C4H8O2
product | 2-[(6-Chloro-4-pyrimidinyl)amino]-1-butanol | 5.6 g | ClC1=CC(=NC=N1)NC(CO)CC | C8H12ClN3O
